*NAND_gate
.subckt nand X Y F GND VDD
Mp1 F X VDD VDD w=1u L=0.18u
Mp2 F Y VDD VDD w=1u L=0.18u
Mn1 F X e  GND w=0.5u L=0.18u
Mn2 e Y GND GND w=0.5u L=0.18u
.ends