*NOR_gate
.subckt nor X Y F GND VDD
Mp1 e X VDD VDD w=1u L=0.18u
Mp2 F Y e VDD w=1u L=0.18u
Mn1 F Y GND GND w=0.5u L=0.18u
Mn2 F X GND GND w=0.5u L=0.18u
.ends